US07148249B2
1-methylbenzimidazol-5-carboxylic acid
25.0 g of 4-methylamino-3-nitrobenzoic acid, dissolved in 200 ml DMF, are hydrogenated for 5 hours at a hydrogen pressure of 30 psi with the addition of 2.5 g of palladium on activated charcoal (10%). The catalyst is suction filtered and the solvent is distilled off. The residue is stirred with diethyl ether, suction filtered and dried. The crude product thus obtained (19.7 g) is refluxed for 2 hours in 250 ml formic acid. After the solvent has been distilled off the residue is stirred with diethyl ether, suction filtered and dried.

reactant | 4-methylamino-3-nitrobenzoic acid | 25.0 g | CNC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | hydrogen | [H][H] | H2
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium on activated charcoal | 2.5 g | [Pd] | Pd
product | 1-methylbenzimidazol-5-carboxylic acid | CN1C=NC2=C1C=CC(=C2)C(=O)O | C9H8N2O2
